US05356862
3,4-Dihydro-N-[[(4,6-dimethoxy-2-pyrimidinyl)amino]carbonyl]-1-oxo-1H[1,4]oxazino[4,3-a]indole-10-sulfonamide
A 60 mg (0.23 mmol) sample of 3,4-dihydro-1-oxo-1H-[1,4]oxazino[4,3-a]indole-10-sulfonamide was dissolved in 1 mL dry acetonitrile and 70 mg (0.27 mmol) of phenyl (4,6-dimethoxypyrimidin-2-yl)carbamate was added. To this was added 0.040 mL of DBU and the mixture was stirred at room temperature for 30 minutes. A 0.2N solution of HCl was then added until the pH of the mixture was less than 2. Additional water was added and the resulting precipitate was collected by filtration and rinsed with water, then ethyl ether to afford 70 mg of the title compound, m.p. 206°-210° C. dec.

reactant | 3,4-dihydro-1-oxo-1H-[1,4]oxazino[4,3-a]indole-10-sulfonamide | O=C1OCCN2C1=C(C=1C=CC=CC21)S(=O)(=O)N | C11H10N2O4S
reactant | phenyl (4,6-dimethoxypyrimidin-2-yl)carbamate | 0.27 mmol, 70 mg | COC1=NC(=NC(=C1)OC)NC(OC1=CC=CC=C1)=O | C13H13N3O4
reactant | DBU | 0.040 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | HCl | Cl | ClH
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
solvent | water | O | H2O
product | 3,4-Dihydro-N-[[(4,6-dimethoxy-2-pyrimidinyl)amino]carbonyl]-1-oxo-1H[1,4]oxazino[4,3-a]indole-10-sulfonamide | 70 mg | COC1=NC(=NC(=C1)OC)NC(=O)NS(=O)(=O)C1=C2N(C=3C=CC=CC13)CCOC2=O | C18H17N5O7S
